US05283248
A solution of ethyl rac-6-[2-(tert-butoxycarbonyl)-1-pyrrolidinyl]-1-cyclopropyl-5-fluoro-2-benzimidazoleacetate (1.647 g, 3.82 mmol) in ethanol (15 ml) is treated with a 1N ethanolic solution of hydroxylamine (9.54 ml, 9.54 mmol) and with a 1N ethanolic sodium methylate solution (1.91 ml, 1.91 mmol). After one hour the solvent is distilled off and the residue is dissolved in water. The pH is adjusted to 5.5 with 1N hydrochloric acid. This solution is extracted with ethyl acetate and the organic phase is washed with water, dried (magnesium sulfate) and concentrated. The residue is recrystallized from ethyl acetate. The crystals obtained are dissolved in tetrahydrofuran (30 ml) and treated with 1,8-diazabicyclo[5.4.0]undec-7-ene (377 mg, 2.5 mmol) and benzyl bromide (462 mg, 2.7 mmol). After 4 hours the reaction solution is diluted with ethyl acetate (150 ml) and washed with water (100 ml) and subsequently with 10 percent sodium chloride solution (100 ml). The organic phase is dried (magnesium sulfate) and concentrated. The residue is recrystallized from ether/n-hexane. There are obtained 643 mg (33%) of 1-[2-[[(benzyloxy)carbamoyl]methyl]-1-cyclopropyl-5-fluoro-6-benzimidazolyl]-L-proline tert-butyl ester.

reactant | ethyl rac-6-[2-(tert-butoxycarbonyl)-1-pyrrolidinyl]-1-cyclopropyl-5-fluoro-2-benzimidazoleacetate | 3.82 mmol, 1.647 g | C(C)(C)(C)OC(=O)C1N(CCC1)C=1C(=CC2=C(N(C(=N2)CC(=O)OCC)C2CC2)C1)F | C23H30FN3O4
reactant | hydroxylamine | 9.54 mmol, 9.54 ml | NO | H3NO
reactant | sodium methylate | 1.91 mmol, 1N, 1.91 ml | C[O-].[Na+]
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.5 mmol, 377 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | benzyl bromide | 2.7 mmol, 462 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 1-[2-[[(benzyloxy)carbamoyl]methyl]-1-cyclopropyl-5-fluoro-6-benzimidazolyl]-L-proline tert-butyl ester | 643 mg, 33% | C(C)(C)(C)OC([C@H]1N(CCC1)C=1C(=CC2=C(N(C(=N2)CC(NOCC2=CC=CC=C2)=O)C2CC2)C1)F)=O | C28H33FN4O4
